US07329680B2
A solution of ([1-(4-bromophenyl)-3-(4-methoxypheyl)-propene]) (3.17 g, 10 mmol) and ethyl hydrazinoacetate hydrochloride (1.54 g, 10 mmol) in ethanol (50 mL) was heated to reflux for 4 h. After cooling to room temperature, the solution was concentrated, diluted with water (50 mL) and extracted with ethyl acetate (3×50 mL). The combined organic extracts were dried over MgSO4, filtered and concentrated. Purification by flash column chromatography (5-10% ethyl acetate in heptane) provided [5-(4-bromo-phenyl)-3-(4-methoxy-phenyl)-4,5-dihydro-pyrazol-1-yl]-acetic acid ethyl ester (3.25 g, 78%) as an oil.

reactant | 1-(4-bromophenyl)-3-(4-methoxypheyl)-propene | BrC1=CC=C(C=C1)C=CCC1=CC=C(C=C1)OC | C16H15BrO
reactant | ethyl hydrazinoacetate hydrochloride | 10 mmol, 1.54 g | Cl.N(N)CC(=O)OCC
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | [5-(4-bromo-phenyl)-3-(4-methoxy-phenyl)-4,5-dihydro-pyrazol-1-yl]-acetic acid ethyl ester | 3.25 g, 78% | C(C)OC(CN1N=C(CC1C1=CC=C(C=C1)Br)C1=CC=C(C=C1)OC)=O | C20H21BrN2O3
